US06989392B2
8-((1-ethyl-4-methylpentyl)oxy)quinolin-2-amine
A 7.5 mL conical microwave vessel (Personal Chemistry) equipped with a septum cap and a magnetic stirring bar was charged with PS-PPh3 resin (Aldrich Chemical Co., Inc, 140 mg, 4.40 equiv), 2-amino-8-hydroxyquinoline (15.0 mg, 0.0960 mmol) and DBAD (69 mg, 3.2 equiv) and purged by passing a stream of N2 for 45 seconds. Anhydr. THF (1.5 mL) was added and contents of the vessel were stirred for 10 min. Then, neat 6-methyl-3-heptanol (4 equiv) was added to the vessel and the resulting suspension was irradiated in Personal Chemistry Smith Synthesizer (150° C. for 330 s; 300 W). The suspension was then filtered, and the resin washed with THF (3×3.0 mL). The filtrate and washings were combined and evaporated in vacuo. The residue was then treated with 6.0 mL of 4 M HCl in dioxane at room temperature for 4 h. The resulting solution was evaporated in vacuo. The residue was dissolved in 1.5 mL of a 1:1 mixture of DMSO/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (500 MHz, CDCl3) δ ppm 7.96 (d, 1H), 7.29 (t, 1H), 7.19 (m, 1H), 7.10 (d, 1H), 7.05 (br d, 1H), 4.37 (m, 1H), 1.91 (m, 2H), 1.78 (m, 2H), 1.55 (m, 1H), 1.35 (m, 1H), 1.24 (m, 1H), 0.98 (t, 3H), 0.87 (m, 6H); MS (DCI/NH3) m/z 273 [M+H]+.

reactant | PPh3 | 140 mg, 4.40 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-amino-8-hydroxyquinoline | 0.0960 mmol, 15.0 mg | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | DBAD | 69 mg, 3.2 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | 6-methyl-3-heptanol | 4 equiv | CC(CCC(CC)O)C | C8H18O
product | 8-((1-ethyl-4-methylpentyl)oxy)quinolin-2-amine | C(C)C(CCC(C)C)OC=1C=CC=C2C=CC(=NC12)N | C17H24N2O
